US05369098
To a solution of the above preparation of (cis)-3-[2-amino-6-(phenylmethoxy)-9H-purin-9-yl]-cyclobutanemethanol (330 mg) in 5.2 ml of methanol was added 2.6 ml of 3N HCl. The mixture was stirred under nitrogen at 40° for 2 hours and concentrated in vacuo to a solid, which was suspended in water. The pH was adjusted to 7.0 using 1N KOH, and the water was removed in vacuo leaving a solid. Chromatography of this solid on 80 ml of CHP-20P resin (Mitsubishi Chemical Industries) water and then 5% dimethylformamide in water gave 140 mg of (cis)-2-amino-1,9-dihydro-9-[3-(hydroxymethyl)cyclobutyl]-6H-purin-6-one as a solid having m.p. 275°-278° (dec.).

reactant | (cis)-3-[2-amino-6-(phenylmethoxy)-9H-purin-9-yl]-cyclobutanemethanol | 330 mg | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@H](C1)CO)OCC1=CC=CC=C1 | C17H19N5O2
reactant | HCl | 3N, 2.6 ml | Cl | ClH
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methanol | 5.2 ml | CO | CH4O
solvent | water | O | H2O
product | (cis)-2-amino-1,9-dihydro-9-[3-(hydroxymethyl)cyclobutyl]-6H-purin-6-one | 140 mg | NC=1NC(C=2N=CN(C2N1)[C@@H]1C[C@@H](C1)CO)=O | C10H13N5O2
